US07968572B2
Methyl (2Z)-3-[(2,6-difluorophenyl)amino]-2-butenoate
By the same procedure as a reaction of Example 158, using methyl acetoacetate and using 2,6-difluoroaniline instead of 4-chloro-2,6-dimethylaniline, the title compound having the following physical data was obtained.

reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | 2,6-difluoroaniline | FC1=C(N)C(=CC=C1)F | C6H5F2N
product | Methyl (2Z)-3-[(2,6-difluorophenyl)amino]-2-butenoate | FC1=C(C(=CC=C1)F)N\C(=C/C(=O)OC)\C | C11H11F2NO2
